US05580883
1,3-Di(1-acetyl-4-piperidyloxy)-4-nitrobenzene (3.7 g) was dissolved in a mixed solution of ethanol (30 ml) and conc. hydrochloric acid (1 ml) and then catalytic reduction was conducted according to the same manner as that described in Example 1, (2). After completion of the reaction, the catalyst was removed and then the solvent was distilled off to obtain 2,4-di(1-acetyl-4-piperidyloxy)aniline hydrochloride (3.9 g) as an amorphous solid. The amorphous solid (1.23 g) was dissolved in dimethylformamide (5 ml) and potassium carbonate (1.24 g) and 1,4-dibromobutane (0.36 ml) were added to the mixture, which was heated with stirring at 100° C. for one hour. After completion of the reaction, water (50 ml) was added to the reaction mixture, which was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then the solvent was distilled off. The residual oily compound was separated and purified by silica gel column chromatography (developing solvent: methanol/dichloroethane=1/19 (v/v)) to obtain an oily compound (0.9 g).

reactant | 1,3-Di(1-acetyl-4-piperidyloxy)-4-nitrobenzene | 3.7 g | C(C)(=O)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC1CCN(CC1)C(C)=O | C20H27N3O6
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2,4-di(1-acetyl-4-piperidyloxy)aniline hydrochloride | 3.9 g | Cl.C(C)(=O)N1CCC(CC1)OC1=C(N)C=CC(=C1)OC1CCN(CC1)C(C)=O | InChI=1S/C20H29N3O4.ClH/c1-14(24)22-9-5-16(6-10-22)26-18-3-4-19(21)20(13-18)27-17-7-11-23(12-8-17)15(2)25;/h3-4,13,16-17H,5-12,21H2,1-2H3;1H
